US07652125B2
Next, in a 300 mL recovery flask, 29.1 g of the obtained 4,6-di(1-adamantyl)-1,3-bis(4-nitro-phenoxy)benzene (46.8 mmol), 1.49 g of 10% palladium-activated carbon (1.40 mmol), 273 mL of N,N-dimethylformamide and a stirrer were charged and agitated at 25° C. for 24 hours under a hydrogen atmosphere. A reaction solution was filtered and then added to 1 L of ion-exchange water. Solid precipitate was collected by filtration, then agitated in 1 L of ion-exchange water for another one hour and dried under reduced pressure, thus obtaining 22.3 g of 4,6-di(1-adamantyl)-1,3-bis(4-amino-phenoxy)benzene (39.7 mmol; the yield was 84.9%).

reactant | 4,6-di(1-adamantyl)-1,3-bis(4-nitro-phenoxy)benzene | 46.8 mmol, 29.1 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C23CC1CC(CC(C2)C1)C3)OC3=CC=C(C=C3)[N+](=O)[O-])OC3=CC=C(C=C3)[N+](=O)[O-] | C38H40N2O6
catalyst | palladium-activated carbon | 1.40 mmol, 1.49 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 273 mL | CN(C=O)C | C3H7NO
product | 4,6-di(1-adamantyl)-1,3-bis(4-amino-phenoxy)benzene | 22.3 g, yield was 84.9% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C23CC1CC(CC(C2)C1)C3)OC3=CC=C(C=C3)N)OC3=CC=C(C=C3)N | C38H44N2O2
